US08357693B2
2-(3-fluoro-4-(phenyl)phenyl)-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate
A mixture of 2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4(3H)-one (3.2 g, 8.83 mmol), Ac2O (40 mL) and pyridine (5 mL) was heated at 105° C. for 4 h. The mixture was poured onto ice-water (300 mL). The mixture was stirred for 1 h, upon which the solid which had formed was collected via filtration. The solid was washed with water and EtOH and dried under vacuum to give the desired product 2-(3-fluoro-4-(phenyl)phenyl)-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate. MS 405.2 (M+1) HPLC retention time 8.23 mins.

reactant | 2-(3-fluoro-4-(phenyl)phenyl)-6-hydroxy-7-methoxyquinazolin-4(3H)-one | 8.83 mmol, 3.2 g | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(N1)=O)O)OC | C21H15FN2O3
reactant | Ac2O | 40 mL | CC(=O)OC(=O)C | C4H6O3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3-fluoro-4-(phenyl)phenyl)-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate | C(C)(=O)OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C23H17FN2O4
